US04447441
A mixture of 5-(3-nitropyrazol-1-yl)valeramide (3.6 g.) and 3% w/w palladium on carbon (0.54 g.) was stirred in isopropanol (20 ml.) under an atmosphere of hydrogen. The temperature was kept below 40° by external ice cooling. After 4 hours no more hydrogen was absorbed. The mixture was filtered and the filtrate was evaporated in vacuo to give 5-(3-aminopyrazol-1-yl)valeramide as an oil which crystallised. This product (2.5 g.) was stirred in acetonitrile (25 ml.) and 2,2,2-trifluoroethylisothiocyanate (2.17 g.) was added. After 18 hours the mixture was filtered and the residue was washed with acetonitrile then ether to give 5-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-yl)valeramide, m.p. 172°-174°.

reactant | 5-(3-nitropyrazol-1-yl)valeramide | 3.6 g | [N+](=O)([O-])C1=NN(C=C1)CCCCC(=O)N | C8H12N4O3
catalyst | palladium on carbon | 0.54 g | [Pd] | Pd
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 5-(3-aminopyrazol-1-yl)valeramide | NC1=NN(C=C1)CCCCC(=O)N | C8H14N4O
